US08076516B2
N-(3-(3-Bromo-4-fluorophenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide was coupled with 4-ethynylheptan-4-ol following the method used in Example 7 to give 2,2,2-trifluoro-N-(3-(4-fluoro-3-(3-hydroxy-3-propylhex-1-ynyl)phenyl)-3-hydroxypropyl)acetamide as a pale yellow oil. Yield (1.37 g, 78%): 1H NMR (400 MHz, DMSO-d6) δ 9.31 (t, J=5.0 Hz, 1H), 7.37 (dd, J=6.8, 2.0 Hz, 1H), 7.34-7.30 (m, 1H), 7.18 (t, J=9.0 Hz, 1H), 5.41 (d, J=4.8 Hz, 1H), 5.19 (s, 1H), 4.58-4.54 (m, 1H), 3.28-3.16 (m, 2H), 1.82-1.69 (m, 2H), 1.63-1.41 (m, 8H), 0.89 (t, J=7.2 Hz, 6H).

reactant | N-(3-(3-Bromo-4-fluorophenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1F)C(CCNC(C(F)(F)F)=O)O | C11H10BrF4NO2
reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
product | 2,2,2-trifluoro-N-(3-(4-fluoro-3-(3-hydroxy-3-propylhex-1-ynyl)phenyl)-3-hydroxypropyl)acetamide | FC(C(=O)NCCC(O)C1=CC(=C(C=C1)F)C#CC(CCC)(CCC)O)(F)F | C20H25F4NO3
